US07598257B2
4-Bromo-1-[2-(trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]pyridine (0.100 g, 0.000306 mol) was combined with 1-benzyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.113 g, 0.000398 mol) in toluene (3.0 mL, 0.028 mol) and ethanol (0.5 mL, 0.008 mol). Potassium carbonate (0.084 g, 0.00061 mol) dissolved in water (1.0 mL, 0.056 mol) was added and the reaction mixture was degassed with nitrogen. Tetrakis(triphenylphosphine)palladium(0) (0.080 g, 0.000069 mol) was added, and again the mixture was degassed with nitrogen for 5 min. The reaction was heated in sealed tube to 100° C. in a microwave for 30 minutes. The reaction was partitioned between ethyl acetate and water. The organic layer was washed with water, brine, dried over magnesium sulfate and concentrated to give a crude residue. The product was purified by FCC on silica gel using ethyl acetate:hexane 3:7, to give 4-(1-benzyl-1H-pyrazol-4-yl)-1-[2-(trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]pyridine 0.092 g as a semisolid residue, LC/MS (M+H)+: 405.

reactant | 4-Bromo-1-[2-(trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]pyridine | 0.000306 mol, 0.100 g | BrC1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C13H19BrN2OSi
reactant | 1-benzyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.000398 mol, 0.113 g | C(C1=CC=CC=C1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C16H21BN2O2
reactant | toluene | 0.028 mol, 3.0 mL | C1(=CC=CC=C1)C | C7H8
reactant | ethanol | 0.008 mol, 0.5 mL | C(C)O | C2H6O
reactant | Potassium carbonate | 0.00061 mol, 0.084 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 0.056 mol, 1.0 mL | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.000069 mol, 0.080 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(1-benzyl-1H-pyrazol-4-yl)-1-[2-(trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]pyridine | 0.092 g | C(C1=CC=CC=C1)N1N=CC(=C1)C1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C23H28N4OSi
